US08877961B2
(e) Preparation of N-{4-[({2-[(tert-butoxy)carbonylamino]ethyl}amino)-carbonylamino]phenyl}(fluoren-9-ylmethoxy)carboxamide
A solution of N-{4-[(2,5-dioxoazolidinyloxy)carbonylamino]phenyl}(fluoren-9-ylmethoxy)carboxamide (16.10 g, 34.15 mmol, 1.0 eq) in H2O/CH3CN (1/1, v/v, 360 mL) is reacted at room temperature with NaHCO3 (2.86 g, 34.15 mmol, 1.0 eq) and N—BOC-ethylenediamine (5.47 g, 34.15 mmol, 1.0 eq). After stirring overnight at room temperature, the reaction mixture is filtered to afford 16.36 g of the expected crude product as a white solid.

reactant | N-{4-[(2,5-dioxoazolidinyloxy)carbonylamino]phenyl}(fluoren-9-ylmethoxy)carboxamide | 34.15 mmol, 16.10 g, 1.0 eq | O=C1N(C(CC1)=O)OC(=O)NC1=CC=C(C=C1)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C26H21N3O6
reactant | NaHCO3 | 34.15 mmol, 2.86 g, 1.0 eq | C(=O)(O)[O-].[Na+]
reactant | N—BOC-ethylenediamine | 34.15 mmol, 5.47 g, 1.0 eq | C(=O)(OC(C)(C)C)NCCN | C7H16N2O2
solvent | H2O CH3CN | 360 mL | O.CC#N
product | N-{4-[({2-[(tert-butoxy)carbonylamino]ethyl}amino)-carbonylamino]phenyl}(fluoren-9-ylmethoxy)carboxamide | 16.36 g | C(C)(C)(C)OC(=O)NCCNC(=O)NC1=CC=C(C=C1)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C29H32N4O5
